US04652584
A solution of 3.75 g (9.57 mmoles) of 4-(2-hydroxy-3-[(1,1-dimethylethyl)amino]propoxy]-3-iodobenzamide, 1.6 ml (14.35 mmole) of phenylacetylene, 0.036 g (0.048 mmole) of (Ph3P)2PdCl2 and 0.018 g (0.0957 mmole) of copper (I) iodide in 20 ml of triethylamine and 10 ml of THF (which had been deoxygenated by admission of N2) was stirred at 25° C. under N2 for one hour. It was heated at 60° for 3 hr. The precipitate which formed on cooling was collected by filtration and dried in vacuo. A fumarate salt was prepared in MeOH solvent and ether was added. A total of 3.0 g was collected by filtration in two crops. The solid was stirred with dilute NaOH and the crystalline free base was collected by filtration. The solid was recrystallized from CH3CN to give 1.2 g of crystalline 4-[2-hydroxy-3-[(1,1 -dimethylethyl)amino]propoxy]-3-(phenylethynyl)benzamide hydrate (4:1), mp 167°-169° C.

reactant | 4-(2-hydroxy-3-[(1,1-dimethylethyl)amino]propoxy]-3-iodobenzamide | 9.57 mmoles, 3.75 g | OC(COC1=C(C=C(C(=O)N)C=C1)I)CNC(C)(C)C | C14H21IN2O3
reactant | phenylacetylene | 14.35 mmole, 1.6 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | ether | CCOCC | C4H10O
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | (Ph3P)2PdCl2 | 0.048 mmole, 0.036 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.0957 mmole, 0.018 g | [Cu]I
product | 4-[2-hydroxy-3-[(1,1 -dimethylethyl)amino]propoxy]-3-(phenylethynyl)benzamide hydrate | 1.2 g | O.OC(COC1=C(C=C(C(=O)N)C=C1)C#CC1=CC=CC=C1)CNC(C)(C)C | InChI=1S/C22H26N2O3.H2O/c1-22(2,3)24-14-19(25)15-27-20-12-11-18(21(23)26)13-17(20)10-9-16-7-5-4-6-8-16;/h4-8,11-13,19,24-25H,14-15H2,1-3H3,(H2,23,26);1H2
